* ThermoLang Generated SPICE Netlist for Discrete EBM
* Problem: ising_square
* Spins: 4

.title Discrete EBM Annealing Circuit

* --- Coupling Resistors (J_ij) --- 
R0_1 N0 N1 500.00
R0_3 N0 N3 500.00
R1_2 N1 N2 500.00
R2_3 N2 N3 500.00

* --- Local Field Current Sources (h_i) --- 
I0 0 N0 DC 1.0000e-06
I1 0 N1 DC 1.0000e-06
I2 0 N2 DC 1.0000e-06
I3 0 N3 DC 1.0000e-06

* --- Node Capacitors (for stability) & Noise Sources --- 
C0 N0 0 1nF
Rnoise0 N0 N_noise_in0 1
Vnoise0 N_noise_in0 0 DC 0
C1 N1 0 1nF
Rnoise1 N1 N_noise_in1 1
Vnoise1 N_noise_in1 0 DC 0
C2 N2 0 1nF
Rnoise2 N2 N_noise_in2 1
Vnoise2 N_noise_in2 0 DC 0
C3 N3 0 1nF
Rnoise3 N3 N_noise_in3 1
Vnoise3 N_noise_in3 0 DC 0

* --- Analysis Directives --- 
.TRAN 0 100ms 0 1us
* To run noise analysis, uncomment the line below and specify an output node.
*.NOISE V(N0) Vnoise0 dec 10 1 100MEG
* A simple temperature sweep from high to low temp.
.TEMP 100 25 0

.END
